US07981903B2
To a solution of 6-(methyloxy)-3,4-dihydro-1(2H)-isoquinolinone (3.4 g, 17.8 mmol) in H2SO4 (45 mL) at −20° C. was added HNO3 (1.58 mL, 21.3 mmol) dropwise. The mixture was allowed to stir for 3 h at −20° C. The mixture was poured into ice water and the aqueous layer was extracted with dichloromethane. The combined organic layers were concentrated under reduced pressure to give 6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-isoquinolinone (3.0 g, 71%). 1H NMR (CDCl3) δ 8.55 (1H), 6.88 (1H), 6.2 (1H), 4.0 (3H), 3.6 (2H), 3.05 (2H).

reactant | 6-(methyloxy)-3,4-dihydro-1(2H)-isoquinolinone | 17.8 mmol, 3.4 g | COC=1C=C2CCNC(C2=CC1)=O | C10H11NO2
reactant | HNO3 | 21.3 mmol, 1.58 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 45 mL | OS(=O)(=O)O | H2O4S
product | 6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-isoquinolinone | 3.0 g, 71% | COC=1C=C2CCNC(C2=CC1[N+](=O)[O-])=O | C10H10N2O4
